US08048884B2
N-{2-[3′-(4-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-4-methoxy-N-methyl-benzenesulfonamide hydrochloride
Dissolve 4-methoxy-benzenesulfonyl chloride (0.110 g, 0.530 mmol, 1.1 eq.) in dichloromethane (4 mL). Add {2-[3′-(4-fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amine (0.150 g, 0.480 mmol, 1 eq.). Add morpholine, polymer-bound (0.220 g, 0.530 mmol, 1.1 eq.). Stir at room temperature for 2 hr. Purify by SCX chromatography (column washed with methanol and extracted with 7N NH3/MeOH) to afford the free base of the title compound (0.187 g, 80% yield). MS (loop): m/z=486.0 [M+H].

reactant | 4-methoxy-benzenesulfonyl chloride | 0.530 mmol, 0.110 g, 1.1 eq. | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | {2-[3′-(4-fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amine | 0.480 mmol, 0.150 g, 1 eq. | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CCNC | C17H22FN5
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N-{2-[3′-(4-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-4-methoxy-N-methyl-benzenesulfonamide hydrochloride | 0.187 g, 80% yield | Cl.FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CCN(S(=O)(=O)C1=CC=C(C=C1)OC)C | InChI=1S/C24H28FN5O3S.ClH/c1-28(34(31,32)22-9-7-21(33-2)8-10-22)13-14-29-15-17-30(18-16-29)24-23(26-11-12-27-24)19-3-5-20(25)6-4-19;/h3-12H,13-18H2,1-2H3;1H
